US04935430
(a) 4'-(4-Methylimidazol-1-yl)acetophenone
A mixture of 4'-fluoroacetophenone (13.8 g, 100 mmol), 4-methylimidazole (8.2 g, 100 ml) and potassium carbonate (20.7 g, 150 mmol) in dry dimethylformamide (190 ml) was heated at 150° C. for 23 hours. Most of the solvent was evaporated at reduced pressure and the residue was partitioned between ethyl acetate and brine. The organic layer was washed (3×) with brine, dried (magnesium sulphate) and evaporated to leave a sticky solid which was purified by flash chromatography (eluting 5% diethylamine in ethylacetate). Recrystallization from ethyl acetate/hexane afforded the title compound (yield 4 g, 20%), m.p. 100° C.

reactant | 4'-fluoroacetophenone | 100 mmol, 13.8 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | 4-methylimidazole | 100 ml, 8.2 g | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
product | 4'-(4-Methylimidazol-1-yl)acetophenone | yield 4 g, 20% | CC=1N=CN(C1)C1=CC=C(C=C1)C(C)=O | C12H12N2O
